US07947685B2
Step 2: 3-(3-Fluoro-phenylamino)-pyrazine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, MS: m/e=330.1 (M+H+), was prepared in accordance with the general method of example 4, step 2 from 3-bromo-pyrazine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide and 3-fluoroaniline.

reactant | 3-bromo-pyrazine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC=CN=C1Br | C9H7BrN4OS
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
product | 3-(3-Fluoro-phenylamino)-pyrazine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC=CN=C1NC1=CC(=CC=C1)F | C15H12FN5OS
